Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
enlarging uterine mass
 
Major Surgical or Invasive Procedure:
exploratory laparotomy, radical hysterectomy, BSO, bilateral 
pelvic lymph node dissection, total omentectomy, mobilization of 
splenic flexure, oversew of bowel serosa

 
History of Present Illness:
Ms. ___ is a ___ YO P2 perimenopausal woman who presents
with an enlarging uterine mass.

Her evaluation started after experiencing pelvic pain in
___ of this year.  She also has had decreased appetite
since that time and notes that over the course of yesterday she
ate a small piece of chicken and has also limited oral 
hydration.
She is greatly fatigued.  She notes that she lives on the third
floor and it takes her approximately 10 minutes to get up to her
apartment.  She does have intermittent constipation and on
average has ___ bowel movements per week.  She has no issues 
with
urination.
 
___ EMB:
- Scant fragments of inactive endometrium.
- Fragments of benign endocervix.
- Squamous epithelium within normal limits.

Pelvic MRI ___
- uterus 13 x 18 x 22 cm
- EMS deviated to right by 1.7cm area of heterogeneous slightly
hyperintense T2 signal, extending to left aspect of uterus
- ovaries not distinctly seen
- trace ff
- no bladder abnormalities
- fat containing umb hernia
- no enlarge LN

 
Past Medical History:
PMH:
- iron def anemia (IV iron infusions), last Hct 34.9 ___

PSH:
Myomectomy in ___ via ___ incision

OBGYN HX:
Para 2
SVD x2
Denies ever any history of abnormal Paps
Denies any history of pelvic infections
Denies history of breast biopsies or other problems
Last menstrual period was in ___

 
Social History:
___
Family History:
Lung cancer
No known GYN or breast cancer or colon cancer
 
Physical Exam:
PHYSICAL EXAM:
'Vital Signs' sheet entries for ___:
BP: 158/85
Heart Rate: 90
Weight: 228.4 (With Clothes)
Height: 67
BMI: 35.8

GENERAL:  No acute distress, well developed, well nourished,
appears stated age.
HEENT: NC/AT
EYES: sclera anicteric
SKIN:  Warm and dry.
NEURO/PSYCH:  Alert and oriented x 4.
NECK: Supple no mass
LYMPHATICS:  No palpable supraclavicular, cervical, or
inguinofemoral lymphadenopathy.
RESPIRATORY:  Lungs clear to auscultation bilaterally.
CARDIOVASCULAR:  Heart regular rate and rhythm.
MUSCULOSKELETAL: No spinal or cva tenderness.
GASTROINTESTINAL:  Abdomen soft, abdominopelvic mass palpated to
above the umbilicus minimally mobile discomfort to palpation
without peritoneal signs.
EXTREMITIES:  Nontender, no edema bilaterally.
GENITOURINARY: 
External female genitalia: normal
Vagina: no lesions
Cervix: no lesions, not expanded
Uterus: not enlarged though exact size and contours are 
difficult
to delineate given habitus/discomfort
Adnexa: no palpable masses
RECTAL:  Normal tone, smooth rectovaginal septum, no rectal
impingement, and otherwise confirms the pelvic exam above.

Exam Day of Discharge
24 HR Data (last updated ___ @ 618)
Temp: 97.8 (Tm 98.6), 
BP: 152/87 (127-152/75-87), 
HR: 67 (64-67), 
RR: 18, O2 sat: 99% (98-100), O2 delivery: RA, 

Wt: 210.8 lb/95.62 kg

I/Os:
Fluid Balance (last updated ___ @ 611)
  Last 8 hours  Total cumulative -170ml
    IN: Total 400ml, PO Amt 400ml
    OUT:  Total 570ml, Urine Amt 570ml
  Last 24 hours  Total cumulative -835ml
    IN: Total 1180ml, PO Amt 1180ml
    OUT:  Total 2015ml, Urine Amt 2015ml

General: NAD, comfortable appearing, sitting up in chair
CV: RRR
Lungs: nonlabored breathing
Abdomen: soft, NT, ND, moderate distended, normoactive bowel
sounds, no rebound or guarding, vertical midline incision 
staples
c/d/i
GU: pad with no spotting, foley draining clear urine
Extremities: no edema, non-tender to palpation

 
Pertinent Results:
___ 10:09AM   WBC-16.2* RBC-3.82* HGB-8.4* HCT-29.5* 
MCV-77* MCH-22.0* MCHC-28.5* RDW-18.8* RDWSD-52.7*
___ 02:48PM   NEUTS-85.8* LYMPHS-9.3* MONOS-2.7* EOS-0.8* 
BASOS-0.3 IM ___ AbsNeut-14.69* AbsLymp-1.59 AbsMono-0.46 
AbsEos-0.14 AbsBaso-0.05
___ 02:58PM   HGB-7.4* calcHCT-22
___ 04:15PM   HGB-9.4* calcHCT-28
___ 07:40PM   WBC-19.8* RBC-3.73* HGB-9.0* HCT-30.4* MCV-82 
MCH-24.1* MCHC-29.6* RDW-19.3* RDWSD-57.8*
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing XL, radical hysterectomy, BSO, bilateral pelvic 
lymph node dissection, total omentectomy, mobilization of 
splenic flexure, oversew of bowel serosa for symptomatic 
enlarging fibroid uterus and intraop frozen c/f endomyometrial 
carcinoma vs. uterine sarcoma. Please see the operative report 
for full details. Prior to surgery, her hematocrit was 29. 
Intra-op her hct was 24 and she received 2 units of blood and 
her hct rose to 30. 

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with an epidural,IV 
Tylenol/toradol. She had one episode of large volume emesis 
POD#1 concerning ileus, however resolved over the next few days. 
Her diet was advanced without difficulty and she was 
transitioned to tramadol/acetaminophen/ibuprofen. She was also 
found to have a urinary tract infection and was treated with a 5 
day course of Keflex. 

Throughout her postop stay she complained of fatigue and concern 
regarding activity at home in her 3 story house. She was seen by 
___ on POD#4 and cleared. Her energy improved by POD#5 and she 
felt safe to go home. 

She was tolerating a regular diet, ambulating independently, and 
pain was controlled with oral medications. She was then 
discharged home in stable condition with foley in place with 
outpatient follow-up scheduled for routine postop in addition to 
foley and staple removal. She will f/u with ___ regarding IV 
iron transfusion f/u in the near future. 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0 
2.  Cephalexin 500 mg PO BID 
RX *cephalexin 500 mg 1 capsule(s) by mouth twice a day Disp #*8 
Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
4.  Enoxaparin (Prophylaxis) 40 mg SC DAILY 
RX *enoxaparin 40 mg/0.4 mL 1 syringe subcutaneous once a day 
Disp #*28 Syringe Refills:*0 
5.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild NOT relieved by 
Acetaminophen 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*0 
6.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
symptomatic enlarging fibroid uterus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 

Abdominal instructions:  
* Your staples will be removed within 2 weeks from your surgery. 
This appointment should already been scheduled for you. Please 
call if you do not have an appointment scheduled. 
* Take your medications as prescribed.  We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 12 
weeks.  
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  
* If you have staples, they will be removed at your follow-up 
visit.

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

*** Lovenox injections:
* Patients having surgery for cancer have risk of developing 
blood clots after surgery. This risk is highest in the first 
four weeks after surgery. You will be discharged with a daily 
Lovenox (blood thinning) medication. This is a preventive dose 
of medication to decrease your risk of a forming a blood clot. A 
visiting nurse ___ assist you in administering these 
injections. 

*** Home with foley: You were discharged home with a Foley 
(bladder) catheter and received teaching for it prior to 
discharge. You were also given a prescription for Macrodantin 
(nitrofurantoin) antibiotic to prevent a UTI while you have the 
catheter. Please take as prescribed. You should follow-up in Dr. 
___ as scheduled for catheter removal. Please call for 
an appointment.

 
Followup Instructions:
___